US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.404 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.404 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C)C2=CC=CC=C2)=O)O1 | C25H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(1-phenylethyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C)C2=CC=CC=C2)=O)O1 | InChI=1S/C25H28N2O2.ClH/c1-18(19-7-5-4-6-8-19)20-9-11-21(12-10-20)25(28)27-14-13-22-15-23(16-26(2)3)29-24(22)17-27;/h4-12,15,18H,13-14,16-17H2,1-3H3;1H
